US05696112
4-(2-Chloro-4-aminobenzoyl)-5,6-dihydro-4H-thieno-[3,2-b]azepine
To a solution of 2.36 g of SnCl2.2H2O in 13 ml of ethanol is added 0.70 g of 4-(2-chloro-4-nitrobenzoyl)-5,6-dihydro-4H-thieno[3,2-b]azepine. The mixture is heated at 75° C. for one hour, cooled to room temperature and concentrated under vacuum to 10 ml. The mixture is chilled in an ice bath and 1M NaHCO3 added slowly. The mixture is extracted with 100 ml ethyl acetate and then with 80 ml of ethyl acetate. The extracts are combined, washed with brine and dried (Na2SO4). The extract is passed through a thin pad of hydrous magnesium silicate and the pad washed with ethyl acetate. The filtrate is concentrated to give a solid which is crystallized from ethyl acetate to give white crystals, m.p. 192°-200° C.

reactant | SnCl2.2H2O | 2.36 g | O.O.Cl[Sn]Cl
reactant | 4-(2-chloro-4-nitrobenzoyl)-5,6-dihydro-4H-thieno[3,2-b]azepine | 0.70 g | ClC1=C(C(=O)N2C3=C(C=CCC2)SC=C3)C=CC(=C1)[N+](=O)[O-] | C15H11ClN2O3S
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | 4-(2-Chloro-4-aminobenzoyl)-5,6-dihydro-4H-thieno-[3,2-b]azepine | ClC1=C(C(=O)N2C3=C(C=CCC2)SC=C3)C=CC(=C1)N | C15H13ClN2OS
